US04300942
To a solution of ethyl-N-[(benzylthio)carbonyl]-N-[bis(3-nitrophenoxy)phosphinylmethyl]-glycinate (2.0 g.; 0.0034 mol.) dissolved in 50 ml. of methylene chloride was added metachloroperbenzoic acid (0.69 g.; 0.0034 mol.) at 0° C. The reaction mixture was stirred for 4 hours while allowed to gradually warm to 25° C., then filtered. The filtrate was washed with 5% sodium hydroxide, dried, and concentrated in vacuo to yield ethyl-N-[(benzylsulfinyl)carbonyl]-N-[bis(3-nitrophenoxy)phosphinylmethyl]-glycinate (1.3 g.) as an oil (nD25 =1.5654) having the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[bis(3-nitrophenoxy)phosphinylmethyl]-glycinate | 0.0034 mol, 2.0 g | C(C)OC(CN(CP(=O)(OC1=CC(=CC=C1)[N+](=O)[O-])OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)SCC1=CC=CC=C1)=O | C25H24N3O10PS
reactant | metachloroperbenzoic acid | 0.0034 mol, 0.69 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl-N-[(benzylsulfinyl)carbonyl]-N-[bis(3-nitrophenoxy)phosphinylmethyl]-glycinate | 1.3 g | C(C)OC(CN(CP(=O)(OC1=CC(=CC=C1)[N+](=O)[O-])OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)S(=O)CC1=CC=CC=C1)=O | C25H24N3O11PS
